US05932642
A mixture consisting of 36.1 g (0.20 mol) of 3-tert-butyl-4-hydroxyanisol, 19.6 g (0.20 mol) of cyclohexanone and 10 ml of acetic acid is placed in a reactor and saturated, with stirring, with hydrochloric acid gas at room temperature. After standing for 64 hours at room temperature, the mixture is again saturated with hydrochloric acid gas and stirred for another 5 hours at 40° C. The reaction mixture is diluted with hexane and washed with water, sodium chloride solution and sodium hydrogencarbonate solution. The organic phase is dried over magnesium sulfate and concentrated on a rotary evaporator. The residue is chromatographed over silica gel using the solvent system ethyl acetate/hexane=1:49, giving 15.1 g (29%) of 2-tert-butyl-6-cyclohexen-1-yl-4-methoxyphenol as a yellowish thick oil, 1H--NMR (CDCl3), δ(ppm): 3.75 (s, 3H, OCH3), 5.87 (m, 1H, cyclohexenyl--H), (compound (111), Table 1).

reactant | 3-tert-butyl-4-hydroxyanisol | 0.20 mol, 36.1 g | C(C)(C)(C)C=1C=C(C=CC1O)OC | C11H16O2
reactant | cyclohexanone | 0.20 mol, 19.6 g | C1(CCCCC1)=O | C6H10O
reactant | acetic acid | 10 ml | C(C)(=O)O | C2H4O2
reactant | hydrochloric acid | Cl | ClH
solvent | hexane | CCCCCC | C6H14
product | 2-tert-butyl-6-cyclohexen-1-yl-4-methoxyphenol | 15.1 g, 29% | C(C)(C)(C)C1=C(C(=CC(=C1)OC)C1=CCCCC1)O | C17H24O2
